Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Percocet
 
Attending: ___.
 
Chief Complaint:
Acute on chronic mesenteric ischemia
 
Major Surgical or Invasive Procedure:
___ angioplasty
SMA angioplasty
Ex-lap and small bowel resection
Chest thoracostomy
Angiogram
Intubation

 
History of Present Illness:
___ with chronic mesenteric ischemia s/p ___ stent ___ 
(___) presents with two week history of central abdominal 
pain localizing to LLQ.  She has also experienced nausea and 
vomiting following meals.  She has lost 17
lbs over the last month.  She has not experienced any fever / 
chills / diarrhea / blood in the stool / constipation / dysuria 
 
Past Medical History:
PMH: MI early ___, s/p cardiac cath, no intervention
PSH: ___ stenting ___, ___ stenting ___, Ex-lap and SBR
___, take back for bleeding ___, SMA stenting 
___,
hysterectomy

 
Social History:
___
Family History:
Brother and mother with DM. Denies any GI disease in her family.

 
Physical Exam:
PHYSICAL EXAM on presentation
Vital Signs: Temp: 97.2 RR: 20 Pulse: 92 BP: 110/65  
Neuro/Psych: Oriented x3, Affect Normal, NAD. 
Neck: No masses, Trachea midline, Thyroid normal size,
non-tender, no masses or nodules, No right carotid bruit, No 
left
carotid bruit. 
Nodes: No clavicular/cervical adenopathy, No inguinal 
adenopathy.

Skin: No atypical lesions. 
Heart: Regular rate and rhythm. 
Lungs: Clear, Normal respiratory effort. 
Gastrointestinal: Non distended, No masses, No hernia, No AAA,
abnormal: Tender LLQ, guarding, no rebound. 
Extremities: No popiteal aneurysm, No femoral bruit/thrill, No
RLE edema, No LLE Edema, No varicosities, No skin changes. 
 
Pulse Exam (P=Palpation, D=Dopplerable, N=None)
RUE Radial: P. Ulnar: P. Brachial: P. 
LUE Radial: P. Ulnar: P. Brachial: P. 
RLE Femoral: P. Popiteal: P. DP: P. ___: P. 
LLE Femoral: P. Popiteal: P. DP: P. ___: P. 

Physical Exam on DC:
NADS
Clear, not labored
RRR
soft, staples c/d/i, ND, NT
No c/c/e
 
Pertinent Results:
CT ___ 
1. Marked improvement in appearance of the lungs, compatible 
with resolution of ARDS. Previously present pneumothorax is also 
resolved. Small bilateral pleural effusions are decreased in 
size. There is residual atelectasis, most apparent posteriorly 
in the right lower lobe. Nodular densities as above may 
represent resolving inflammatory change, though attention on 
follow-up examinations is warranted. 
2. No evidence of pulmonary embolus, as questioned. 
3. Hyperdense collection within the right axilla/right chest 
wall, with focus of hyperdensity on post-contrast imaging. This 
is compatible with hematoma with active extravasation, though 
this may be venous.  
4. Diffuse dilation of the small bowel, without definite 
transition point, 
and without imaging evidence of ischemia. This most likely 
reflects ileus. 
5. Decreased free fluid in the pelvis, with no loculated fluid 
collection to suggest abscess formation. 
6. Redemonstration of high-grade stenosis at the origin of the 
celiac axis, patent SMA stent, and occlusion of ___ stent. 
7. Known right adrenal lesion, previously characterized as an 
adenoma. 

CXR: SINGLE PORTABLE UPRIGHT VIEW OF THE CHEST: A right 
subclavian line has been removed, the left upper extremity PICC 
terminates with the catheter tip just above the cavoatrial 
junction in the distal SVC. Bibasilar lung opacities have 
continually improved, with no current consolidation. Small 
residual left pleural effusion is seen. A soft tissue density at 
the right pleural surface laterally is is decreased from prior 
radiographs. There is no evidence of persistent pneumothorax. 
Multiple right-sided chronic rib fractures are seen. 

___ 03:56AM BLOOD WBC-4.5 RBC-3.19* Hgb-10.0* Hct-29.5* 
MCV-93 MCH-31.4 MCHC-34.0 RDW-17.7* Plt ___
___ 06:16AM BLOOD Hct-31.3*
___ 04:02AM BLOOD ___ PTT-25.7 ___
___ 01:55PM BLOOD Neuts-65.5 Bands-0 ___ Monos-7.5 
Eos-1.0 Baso-0.6
___ 06:16AM BLOOD Glucose-97 UreaN-12 Creat-0.4 Na-136 
K-4.2 Cl-105 HCO3-25 AnGap-10
___ 04:02AM BLOOD ALT-30 AST-21 AlkPhos-147* TotBili-3.8*
___ 06:16AM BLOOD Calcium-7.9* Phos-3.7 Mg-1.9
 
Brief Hospital Course:
Patient was admitted to Dr. ___ surgery 
service on ___. Her surgeries were as follows - ___, 
ex-lap and small bowel resection; ___, ex-lap and small 
bowel resection (second look), angiogram, angioplasty of ___, 
take-back later that evening for bleeding; ___, angiogram, 
angioplasty and stenting of SMA. Patient stayed in the ICU for 
monitoring and observation. She was eventually extubated, 
maintained on TPN for nutrition, and transferred to general 
floor on ___. On discharge, she was tolerating a regular 
diet with daily TPN (due to inadequate caloric intake) via PICC 
line access, on room air with normal bowel function. 

Her hospital course can be summarized by the following review of 
symptoms - 

Neuro: Patient with minimal pain and only requiring Tylenol with 
relief of symptoms on discharge. She was started on Seroquel 
while in ICU for delirium and ICU psychosis which resolved since 
transfer from the unit. She continues to take that medication as 
needed for insomnia.

Pulm: Patient did develop an iatrogenic pneumothorax from a 
central line access change. Chest tube was placed and then 
removed with resolution. Intubated for respiratory distress from 
hypovolemic shock. She was treated briefly for ventilator 
associated pneumonia with broad spectrum antibiotics. Patient 
self-extubated and did require re-intubation due to respiratory 
distress. She was eventually extubated and maintained normal 
oxygen saturations. She is discharged on room air. 

Cardio: No cardiac issues. Echo performed showing normal 
biventricular cavity sizes with preserved global and regional 
biventricular systolic function and prominent epicardial fat 
pad. Did not require vasopressor support. 

GI: Had an exploratory laparotomy and small bowel resection. 
Observed closely in the ICU. Chronic malnourished state, 
requiring TPN for additional caloric intake. She was advanced to 
a regular diet on discharge. Tolerating without issues but still 
taking inadequate amounts. Patient's stool output was followed 
closely to avoid dehydration. All C.diff stool tests were 
negative. Pls continue to use famotidine (included in TPN). 

Renal: Patient auto-diuresing without issues. Renal asked to 
consult for polyuria. Cultures negative for UTI. Recommendations 
to decrease the solute concentrate in TPN. Continues to urinate 
without issues.

ID: Treated for ischemic bowel and given antibiotics for 
ventilator associated pneumonia. Her course was completed. WBC 
was 4.5 on discharge and continues to be afebrile. Discharged on 
no antibiotics.

Heme: Patient will be discharged on aspirin and Plavix for stent 
prophylaxis. She should continue to be on subcutaneous heparin 
for DVT prophylaxis.

Endo: Patient placed on an insulin sliding scale for coverage. 
No issues with 
hypo/hyperglycemia

Dispo: to rehab

 
Medications on Admission:
Off clopidogrel [Plavix] for 2 weeks; ranitidine HCl [Zantac]; 
simvastatin; aspirin

 
Discharge Medications:
1. heparin (porcine) 5,000 unit/mL Solution Sig: One (1)  
Injection TID (3 times a day): DC when ambulatory.  
2. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
4. albuterol sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1)  Inhalation Q6H (every 6 hours) as 
needed for dyspnea.  
5. ipratropium bromide 0.02 % Solution Sig: One (1)  Inhalation 
Q6H (every 6 hours).  
6. quetiapine 25 mg Tablet Sig: One (1) Tablet PO QHS (once a 
day (at bedtime)) as needed for sleep.  
7. TPN
Volume(ml/d) Amino Acid(g/d) Dextrose(g/d) Fat(g/d) 
1300         60              280           30 

NaCLNaAcNaPO4KClKAc KPO4 MgS04  ___
___  30  179

Famotidine(mg) Insulin(units) Zinc(mg) 
40             37             10 

Cycle over (hrs.) 
8. PICC
Heparin Flush (10 units/ml) 2 mL IV PRN line flush 
PICC, heparin dependent: Flush with 10mL Normal Saline followed 
by Heparin as above daily and PRN per lumen. 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Bowel ischemia
ARF, resolved
Anemia secondary to blood loss, reqiuiring blood transfusions
Pneumothorax with chest tube
Associated VAP PNA, treated briefly
Post op delerim - serequel and geriatric consult. Now resolved
Post op illeus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Signs and symptoms of intestinal ischemia may develop suddenly 
(acute intestinal ischemia) or they may develop gradually over 
time (chronic intestinal ischemia). 

Symptoms of acute intestinal ischemia 
Signs and symptoms of acute intestinal ischemia typically 
include: 

Sudden abdominal pain that may range from mild to severe 
An urgent need to have a bowel movement 
Frequent, forceful bowel movements 
Abdominal tenderness or distention 
Blood in your stool 
Nausea, vomiting 
Fever 
Symptoms of chronic intestinal ischemia 
Signs and symptoms of chronic intestinal ischemia can include: 

Abdominal cramps or fullness, beginning within 30 minutes after 
eating and lasting one to three hours 
Abdominal pain that gets progressively worse over weeks or 
months 
Fear of eating because of subsequent pain 
Unintended weight loss 
Diarrhea 
Nausea, vomiting 
Bloating 
Chronic intestinal ischemia may progress to an acute episode. If 
this happens, you might experience severe abdominal pain after 
weeks or months of bouts of intermittent pain after eating. 

When to see a doctor 
___ immediate medical care if you have sudden, severe abdominal 
pain. Pain that makes you so uncomfortable that you can't sit 
still or find a comfortable position is a medical emergency. 

If you have other signs or symptoms that worry you, make an 
appointment with your doctor. 

 
Followup Instructions:
___